Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUQ abdominal pain 
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history of hypertension , anxiety, Hx of Lyme disease presented
to the hospital as transfer from other facility where she was
getting treated for cholecystitis. She reported that her pain
started 5 days ago in sharp,severe, comes and go patterm , ___
worse with food associated with fever. She denies any bowel
movement changes. She went to the hospital where she was treated
with ABx , IV hydration and transferred to our facility as for
ERCP. 
At the time of encounter the patient was pain free, and she
reported improvement of her general symptoms. She denies any
other active complain and she reported that she is afraid to eat
because of her pain worsen with food. 
 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Anxiety, 
+ stress test ___ years ago
and hypertension 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
VITALS: ___ 1002 Temp: 97.8 PO BP: 139/77 R Sitting HR: 77
RR: 16 O2 sat: 96% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain 
Score:
___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: ___ signs +, RUQ discomfort, 
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:03AM BLOOD WBC-11.8* RBC-4.62 Hgb-14.0 Hct-42.5 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.1 RDWSD-43.7 Plt ___
___ 06:54AM BLOOD WBC-8.7 RBC-4.28 Hgb-13.0 Hct-39.8 MCV-93 
MCH-30.4 MCHC-32.7 RDW-12.9 RDWSD-44.1 Plt ___
___ 07:17AM BLOOD Glucose-102* UreaN-9 Creat-0.6 Na-142 
K-3.7 Cl-100 HCO3-27 AnGap-15
___ 06:54AM BLOOD ALT-69* AST-31 AlkPhos-230* TotBili-0.7
___ 12:00AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.0
___ 07:31AM BLOOD Lactate-1.3

ERCP: sphincterotomy and stent placement.  Ampulla did not 
appear normal and could be consistent with a passed stone but 
malignancy cannot be ruled out.

Stress MIBI: normal with EF of 65%
 
Brief Hospital Course:
___ yo F with hx of HTN, anxiety, p/w abd pain found to have 
cholecystitis/cholelithiasis, transferred to ___ for ERCP, now 
s/p ERCP with sphincterotomy and stent placement.

# Cholecystitis/cholelithiasis s/p ERCP: pt sxs improved with 
antibiotics and stent placement.  Discussed case with ACS who 
had low concern for persistent cholecystitis given clinical 
improvement, recommended outpatient f/u for eval for CCY pending 
path results.  She was treated with unasyn while in the 
hospital, tolerating POs at the time of dc.  She will need outpt 
f/u with ACS, ___ and bx, repeat ERCP in ___ wks.  
She was provided dietary education for a low fat diet.

# Chest pressure: pt with reported hx of positive stress test 
and with c/o chest pressure in the hospital.  Given plans for 
possible CCY, stress MIBI was obtained and was negative.  

# GERD: she was continued on PPI

# HTN: poorly controlled in the hospital, started on ___ 
f/u with PCP for titration 

# Asthma: continued  nebs

# back pain: MSK, improved with tylenol

>30 min spent on dc related activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
3. Vitamin D Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*20 Tablet 
Refills:*0 
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Vitamin D 400 UNIT PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and were 
found to have inflammation in your gallbladder.  You improved 
with antibiotics and with placement of a stent in your bile 
duct.  You will need to return to the hospital in ___ weeks for 
removal of the stent and will also follow up with the surgeons 
for consideration of removal of your gallbladder.

You were started on a blood pressure medication called 
lisinopril.  It is important that you follow up with your 
primary care doctor in ___ weeks to evaluate your blood 
pressure.
 
Followup Instructions:
___